.SUBCKT PTC 1 2 3 RTH={500} TAU={2}
* Model of BC PTC 90 degree thermistor for temperature sensing, part# 2322 671 91104, Digikey part# BC1378
* PTC is modeled by 4 temperature dependent resistors, 2 in series with a parallel combination of 2
* It takes 4 pairs of constants to define the slope and intercept for these 4 resistors on a log resistance versus linear temperature graph.
.PARAM A=6.533
.PARAM B=-.007318
.PARAM C=-14.422
.PARAM D=.05435
.PARAM F=-136.027
.PARAM G=.3932
.PARAM H=-42.37
.PARAM J=.1395
* TK is the absolute temperature in kelvins of 0 degrees C.
.PARAM TK=273.15
RP 1 2 1MEG
B1 1 2 I=V(1,2)/(exp(A+(TEMP+TK+V(4))*B)+exp(C+(TEMP+TK+V(4))*D)+1/(1/exp(F+(TEMP+TK+V(4))*G)+1/exp(H+(TEMP+TK+V(4))*J)))
* V(4) rperesents the temperature rise of the element
* The thermal time constant of the die is modeled as an RC time constant fed by a current source representing the power disipated in the die.
* RTH represents the thermal resistance die to ambient and CTH represents the thermal capacity of the mass of the die.
RTH 4 0 {RTH}
CTH 4 0 {TAU/RTH}
BTH 0 4 I=V(1,2)*V(1,2)/(exp(A+(TEMP+TK+V(4))*B)+exp(C+(TEMP+TK+V(4))*D)+1/(1/exp(F+(TEMP+TK+V(4))*G)+1/exp(H+(TEMP+TK+V(4))*J)))
* V(3), the middle node on the symbol, is the actual element temperature, represented as voltage, where 1 volt is 1degree C.
BVT 3 0 V=V(4)+TEMP
.ENDS